US09403818B2
Preparation of methyl 8-(4-cyano-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(4-cyano-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (123 mg, 0.42 mmol) and 4-cyano-phenyl-boronic acid (132 mg, 0.90 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 9:1) afforded the title compound as a yellow solid (142 mg, 94%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.42 mmol, 123 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | 4-cyano-phenyl-boronic acid | 0.90 mmol, 132 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
product | methyl 8-(4-cyano-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 142 mg, 94% | C(#N)C1=CC=C(C=C1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C22H18N2O3
